US08053455B2
Step A: 1-phenylpentane-1,5-diol
A 2.0 M tetrahydrofuran solution of lithium aluminum hydride (2.80 mL, 5.60 mmol) was added to a tetrahydrofuran solution (10 mL) of methyl 5-oxo-5-phenylpentanoate (500 mg, 2.78 mmol) at 0° C. The reaction mixture was stirred for one hour and quenched with the sequential addition of water (0.2 mL), 10% sodium hydroxide solution (0.2 mL), and water (0.6 mL). It was concentrated in vacuo to give the title compound as a colorless oil. 1H NMR (500 MHz, CDCl3) δ 1.32-1.42 (m, 1H), 1.46-1.55 (m, 1H), 1.56-1.64 (m, 2H), 1.70-1.78 (m, 1H), 1.78-1.88 (m, 1H), 3.63 (t, J=6.6 Hz, 2H), 4.68 (dd, J=5.7, 7.8 Hz, 1H), 7.25-7.30 (m, 1H), 7.32-7.35 (m, 4H).

reactant | lithium aluminum hydride | 5.60 mmol, 2.80 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 5-oxo-5-phenylpentanoate | 2.78 mmol, 500 mg | O=C(CCCC(=O)OC)C1=CC=CC=C1 | C12H14O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 M | O1CCCC1 | C4H8O
product | 1-phenylpentane-1,5-diol | C1(=CC=CC=C1)C(CCCCO)O | C11H16O2
